US04144228
10.84 Parts N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-phenylalanine and 2.0 parts N-methylmorpholine are dissolved in 200 parts dimethylformamide and cooled to -15° C. Then, 2.9 parts isobutyl chloroformate is added dropwise over a thirty minute period while keeping the temperature between -15° C. to -10° C. After the addition is completed, a solution of 3.3 parts L-methionine sulfoxide in 15 parts dimethylformamide is slowly added. The mixture is stirred for a further thirty minutes at -15° C. and then warmed to room temperature and stirred thereat for an additional 2 hours. The product is isolated by diluting the reaction mixture with 10 volumes water and extracting with ethyl acetate. The ethyl acetate extracts are combined, dried over anhydrous sodium sulfate and stripped of solvent under reduced pressure. The residue is purified by low-pressure chromatography to afford N-t-butoxycarbonyl-L-tyrosyl-glycylglycyl-L-phenylalanyl-L-methionine sulfoxide.

reactant | N-t-butoxycarbonyl-L-tyrosylglycylglycyl-L-phenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C27H34N4O8
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-methionine sulfoxide | N[C@@H](CCS(=O)C)C(=O)O | C5H11NO3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-t-butoxycarbonyl-L-tyrosyl-glycylglycyl-L-phenylalanyl-L-methionine sulfoxide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCS(=O)C)C(=O)O | C32H43N5O10S
